US05266728
107 g (1.63 mol) of potassium hydroxide (85%) and 85.7 g (542 mmol) of potassium permanganate were dissolved in 380 ml of water, and 37.9 g (271 mmol) of crude 2-norbornanecarboxylic acid in 380 ml of petroleum ether was added dropwise on ice cooling. After heating and refluxing for eight hours, the mixture was stirred at room temperature for 18 hours. The reaction mixture was slowly added to 544 ml of 6N sulfuric acid, to obtain acidified mixture, then 272 ml of an aqueous solution of 62.2 g of sodium bisulfite was added, and the mixture was stirred at room temperature for one hour. After the reaction mixture was extracted with ethyl acetate (200 ml×4), the extract was dried over anhydrous magnesium sulfate. The extract was filtered, the solvent was distilled off and 38.5 g of crude 2-hydroxy-2-norbornanecarboxylic acid was obtained. Crude yield: 92%.

reactant | potassium hydroxide | 1.63 mol, 107 g | [OH-].[K+]
reactant | potassium permanganate | 542 mmol, 85.7 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 2-norbornanecarboxylic acid | 271 mmol, 37.9 g | C12C(CC(CC1)C2)C(=O)O | C8H12O2
reactant | sulfuric acid | 6N, 544 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bisulfite | 62.2 g | S([O-])(O)=O.[Na+]
solvent | water | 380 ml | O | H2O
product | 2-hydroxy-2-norbornanecarboxylic acid | 38.5 g | OC1(C2CCC(C1)C2)C(=O)O | C8H12O3
